US04217356
The starting material is obtained as follows: A solution of 6 g ammonium thiocyanate in 200 ml acetone is treated with 7 ml benzoyl chloride and stirred for 10 minutes. To this solution 6 g of 4-chloro-5-amino-2,1,3-benzothiadiazole in 200 ml of methanol is added. The mixture is boiled for 2 hours and cooled yielding N-benzoyl-N'-(4-chloro-2,1,3-benzothiadiazol-5-yl)thiourea (M.Pt. 220°-222° from methanol). The precipitate was filtered off and quickly heated to reflux with 100 ml of a 2 N aqueous solution of sodium hydroxide.

reactant | ammonium thiocyanate | 6 g | [S-]C#N.[NH4+]
reactant | benzoyl chloride | 7 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-chloro-5-amino-2,1,3-benzothiadiazole | 6 g | ClC1=C(C=CC2=NSN=C21)N | C6H4ClN3S
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | methanol | 200 ml | CO | CH4O
product | N-benzoyl-N'-(4-chloro-2,1,3-benzothiadiazol-5-yl)thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=2C(=NSN2)C=C1)Cl | C14H9ClN4OS2
